US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (100 mg, 0.385 mmol), 3-(4-methyl-[1,4]diazepan-1-yl)-benzylamine (112 mg, 0.654 mmol), Pd2(dba)3 (53 mg, 0.0578 mmol), rac-BINAP (108 mg, 0.173 mmol) and NaOtBu (139 mg, 1.445 mmol) in DMA (5 mL) was heated at 85° C. for 1 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Preparatory HPLC afforded 4-chloro-6-[3-(4-methyl-[1,4]diazepan-1-yl)-benzylamino]-2H-phthalazin-1-one hydroformate (29 mg) as a pale brown solid. 1H (400 MHz, d6-DMSO) δ: 1.83 (m, 2H), 2.21 (s, 3H). 2.39 (m, 2H), 2.54 (m, 2H), 3.38 (m, 2H), 3.46 (m, 2H), 4.32 (d, 2H), 6.56 (m, 2H), 6.71 (s, 1H), 6.83 (s, 1H), 7.09 (t, 1H), 7.16 (dd, 1H), 7.61 (m, 1H), 7.90 (d, 1H), 8.19 (s, 1H), 12.33 (s, 1H) ppm; m/z (M+1) 398.04.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.385 mmol, 100 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 3-(4-methyl-[1,4]diazepan-1-yl)-benzylamine | 0.654 mmol, 112 mg | CN1CCN(CCC1)C=1C=C(CN)C=CC1 | C13H21N3
reactant | rac-BINAP | 0.173 mmol, 108 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.445 mmol, 139 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0578 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-[3-(4-methyl-[1,4]diazepan-1-yl)-benzylamino]-2H-phthalazin-1-one | 29 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=CC(=CC=C1)N1CCN(CCC1)C)=O | C21H24ClN5O
